US08242116B2
3-[(6-bromopyridin-2-yl)amino]propane-1,2-diol
A stirred solution of 2,6-dibromopyridine (0.76 g, 3.20 mmol), 1-amino-2,3-dihydroxypropane (0.29 g, 3.20 mmol) and DIPEA (0.56 mL, 3.24 mmol) in toluene (3.2 mL) was heated to 160° C. under microwave irradiation in a sealed tube for 2 h, and then concentrated in vacuo. Water (5 mL) was added, the mixture sonicated for 10 minutes, and then filtered through Celite®. The filtrate was concentrated in vacuo to yield the title compound (0.239 g, 30%) as a white solid that was used without further purification. δH (DMSO-d6) 7.29-7.18 (1H, m), 6.92-6.79 (1H, m), 6.61 (1H, d, J 7.3 Hz), 6.51 (1H, d, J 8.3 Hz), 4.79 (1H, d, J 4.9 Hz), 4.58 (1H, t, J 5.8 Hz), 3.65-3.54 (1H, m), 3.15-3.04 (1H, m). Exchangeable protons were not observed. LCMS (ES+) 247.0 and 249.0 (1:1 ratio) (M+H)+, RT 2.07 minutes (Method 1).

reactant | 2,6-dibromopyridine | 3.20 mmol, 0.76 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 1-amino-2,3-dihydroxypropane | 3.20 mmol, 0.29 g | NCC(CO)O | C3H9NO2
reactant | DIPEA | 3.24 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 3.2 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(6-bromopyridin-2-yl)amino]propane-1,2-diol | 0.239 g, 30% | BrC1=CC=CC(=N1)NCC(CO)O | C8H11BrN2O2
